US08030304B2
7-(1-Ethyl-propyl)-3-(2-iodo-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Add a freshly prepared solution of lithium di-i-propylamide (150 ml; 62 4 mmol, 0.6 M in THF) to a mixture of 7-(1-ethyl-propyl)-2,5-dimethyl-3-thiazol-5-yl-pyrazolo[1,5-a]pyrimidine, (17.8 g, 62 4 mmol) in THF (100 mL) at −78° C. under a nitrogen atmosphere, keeping the temperature below −74° C. during the addition. Stir the mixture at −78° C. for one hour and then add a solution of N-iodosuccinimide (15 g, 63 mmol) in THF (100 mL) keeping temperature below −74° C. Warm the reaction gradually to 22° C. and then add a 10% aqueous solution of ammonium chloride (300 mL). Separate the organic layer and wash the aqueous layer with methyl-t-butyl ether (2×200 mL). Combine the organic layers, dry over sodium sulfate, filter, and evaporate the solvent. Purify the resulting residue by silica gel chromatography, eluting with hexanes/acetone (5/1) to afford the title compound (15 g, 60%). ES/MS m/z 427 (M+1)+.

reactant | lithium di-i-propylamide | 4 mmol, 0.6 M, 150 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 7-(1-ethyl-propyl)-2,5-dimethyl-3-thiazol-5-yl-pyrazolo[1,5-a]pyrimidine | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=CN=CS2)C)C | C16H20N4S
reactant | N-iodosuccinimide | 63 mmol, 15 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-(1-Ethyl-propyl)-3-(2-iodo-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 15 g, 60% | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=CN=C(S2)I)C)C | C16H19IN4S
